US05332746
10-ethoxycarbonyl-8-phenyl-5,6-dihydro-4H-pyrido-[4',3':4,5]pyrrolo[3,2,1-ij]quinoline
3.6 g (10 mmol) of 10-ethoxycarbonyl-8-phenyl-5,6,8,9,10,11-hexahydro-4H-pyrido[4',3':4,5]pyrrolo[3,2,1-ij]quinoline (a mixture of isomers), obtained analogously to the method of example I a) to c) were boiled while stirring for 8 hours together with 0.8 g (25 mmol) of sulphur in 25 ml of xylene. Another 0.2 g of sulphur were added and boiling with stirring was carried out for another 8 hours. The reaction mixture was evaporated in vacuum and chromatographed over 150 g of silicagel using methylene chloride with 10% by volume of ethyl acetate as an eluent. The desired fraction was evaporated in vacuum. The residue was crystallised from 10 ml of ethyl acetate. 2.1 g (59%) of the desired product were obtained having a melting-point of 173°-174° C,

reactant | 10-ethoxycarbonyl-8-phenyl-5,6,8,9,10,11-hexahydro-4H-pyrido[4',3':4,5]pyrrolo[3,2,1-ij]quinoline | 10 mmol, 3.6 g | C(C)OC(=O)C1CC2=C(N3CCCC4=CC=CC2=C34)C(N1)C1=CC=CC=C1 | C23H24N2O2
reactant | sulphur | 25 mmol, 0.8 g | [S] | S
reactant | sulphur | 0.2 g | [S] | S
solvent | xylene | 25 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 10-ethoxycarbonyl-8-phenyl-5,6-dihydro-4H-pyrido-[4',3':4,5]pyrrolo[3,2,1-ij]quinoline | 2.1 g, 59% | C(C)OC(=O)C1=CC2=C(N3CCCC4=CC=CC2=C34)C(=N1)C1=CC=CC=C1 | C23H20N2O2
